US05453427
Ethyl α-(2-methyl-4-chloro-5-pyrimidinyl)-acetate (3 g, 14 mmol), 3-trifluoromethyl phenol (3 g, 14 mmol) and potassium carbonate (11 g, 80 mmol) in dimethylformamide (50 ml) are stirred at +80° C. for 3 hours. The mixture is diluted with ether and washed with brine. Drying over MgSO4 and evaporation of the solvent gives pure ethyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]acetate as an oil.

reactant | Ethyl α-(2-methyl-4-chloro-5-pyrimidinyl)-acetate | 14 mmol, 3 g | CC1=NC=C(C(=N1)Cl)CC(=O)OCC | C9H11ClN2O2
reactant | 3-trifluoromethyl phenol | 14 mmol, 3 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 80 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | ethyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]acetate | CC1=NC=C(C(=N1)OC1=CC(=CC=C1)C(F)(F)F)CC(=O)OCC | C16H15F3N2O3
